US04625040
Preparation of N-Phenyl-2,5-dihydro-2-oxo-4-phenylamino-3-furancarboxamide
The title derivative was obtained by a procedure similar to that described in Example 8 starting with 2-anilino-4-oxo-3-furoic acid (7.01 grams, 0.032 mol), triethylamine (8.98 ml, 0.064 mol), BOP-Cl (8.15 grams, 0.032 mol) and aniline (2.95 ml, 0.32 mol) dissolved in 100 ml methylene chloride. Yield: 7.37 g, mp 175°-176° C.

reactant | 2-anilino-4-oxo-3-furoic acid | 0.032 mol, 7.01 grams | N(C1=CC=CC=C1)C=1OCC(C1C(=O)O)=O | C11H9NO4
reactant | triethylamine | 0.064 mol, 8.98 ml | C(C)N(CC)CC | C6H15N
reactant | BOP-Cl | 0.032 mol, 8.15 grams | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | aniline | 0.32 mol, 2.95 ml | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Phenyl-2,5-dihydro-2-oxo-4-phenylamino-3-furancarboxamide | C1(=CC=CC=C1)NC(=O)C=1C(OCC1NC1=CC=CC=C1)=O | C17H14N2O3
